US08486970B2
A solution of 714 mg of (3R,4R)-3-(2,4-dichlorophenyl)-N-{1-[6-(hydroxymethyl)pyridin-2-yl]ethyl}-2-{(1S,2S)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide in 14.3 ml of chloroform was cooled to 0° C., and 0.23 ml of triethylamine, 0.16 ml of acetic anhydride, and 6.8 mg of DMAP were added thereto in this order, followed by stirring at room temperature for 5 hours. The reaction solution was concentrated under reduced pressure, and ethyl acetate-water was added thereto for liquid separation, followed by washing with a saturated aqueous sodium hydrogen carbonate solution and a saturated aqueous sodium chloride solution. The solution was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain {6-[1-({[(3R,4R)-3-(2,4-dichlorophenyl)-2-{(1S,2S)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)ethyl]pyridin-2-yl}methyl acetate.

reactant | (3R,4R)-3-(2,4-dichlorophenyl)-N-{1-[6-(hydroxymethyl)pyridin-2-yl]ethyl}-2-{(1S,2S)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinoline-4-carboxamide | 714 mg | ClC1=C(C=CC(=C1)Cl)[C@@H]1N(C(C2=CC=CC=C2[C@H]1C(=O)NC(C)C1=NC(=CC=C1)CO)=O)[C@@H]1[C@H](CCCC1)NS(=O)(=O)C | C31H34Cl2N4O5S
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.16 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | 14.3 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | DMAP | 6.8 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | {6-[1-({[(3R,4R)-3-(2,4-dichlorophenyl)-2-{(1S,2S)-2-[(methylsulfonyl)amino]cyclohexyl}-1-oxo-1,2,3,4-tetrahydroisoquinolin-4-yl]carbonyl}amino)ethyl]pyridin-2-yl}methyl acetate | C(C)(=O)OCC1=NC(=CC=C1)C(C)NC(=O)[C@H]1[C@@H](N(C(C2=CC=CC=C12)=O)[C@@H]1[C@H](CCCC1)NS(=O)(=O)C)C1=C(C=C(C=C1)Cl)Cl | C33H36Cl2N4O6S
